US06096771
(c) 3-Hydroxy-4-methoxy-1,2-benzisoxazole
2-fluoro-6-methoxybenzhydroxamic acid (2.55 g) and potassium hydroxide (4.50 g) were dissolved in butanol (25 ml) and refluxed for 4 hours. After the completion of the reaction, the reaction mixture was adjusted to acidic, extracted with ethyl acetate and the extract was washed with water and dried over anhydrous sodium sulphate. The solvent was evaporated under reduced pressure and the residue was recrystallized from isopropylether, to give the title compound (2.05 g, 90%).

reactant | 2-fluoro-6-methoxybenzhydroxamic acid | 2.55 g | FC1=C(C(=O)NO)C(=CC=C1)OC | C8H8FNO3
reactant | potassium hydroxide | 4.50 g | [OH-].[K+]
solvent | butanol | 25 ml | C(CCC)O | C4H10O
product | 3-Hydroxy-4-methoxy-1,2-benzisoxazole | 2.05 g, 90% | OC1=NOC2=C1C(=CC=C2)OC | C8H7NO3
